US04690157
Benzaldehyde is reacted with 2-methyl-δ-valerolactone to produce 2-(1-hydroxy-1-phenylmethyl)-2-methyl-δ-valerolactone.

reactant | Benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-methyl-δ-valerolactone | CC1C(=O)OCCC1 | C6H10O2
product | 2-(1-hydroxy-1-phenylmethyl)-2-methyl-δ-valerolactone | OC(C1=CC=CC=C1)C1(C(=O)OCCC1)C | C13H16O3
